US06878738B1
2-(4-Chlorophenyl)-7a-hydroxy-6,6-dimethyl-1-phenyl-5,6,7,7a-tetrahydropyrrolizin-3-one
It was not possible to observe the 2-(4-chlorophenyl)-6,6-dimethyl-1-phenyl-5,6,7,7a-tetrahydro-pyrrolizin-3-one (keto tautomer of 2-(4-chlorophenyl)-6,6-dimethyl-1-phenyl-6,7-dihydro-5H-pyrrolizin-3-ol) expected as a hydrolysis product in any case. After relatively long standing (16 h) of a CHCl3 solution of the product, the 2-(4-chlorophenyl)-6,6-dimethyl-1-phenyl-5,6-dihydropyrrolizin-3-one described in example 29 is obtained as a substance in pure form (H2O elimination).

reactant | 2-(4-chlorophenyl)-6,6-dimethyl-1-phenyl-5,6,7,7a-tetrahydro-pyrrolizin-3-one | ClC1=CC=C(C=C1)C1=C(C2CC(CN2C1=O)(C)C)C1=CC=CC=C1 | C21H20ClNO
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(4-chlorophenyl)-6,6-dimethyl-1-phenyl-5,6-dihydropyrrolizin-3-one | ClC1=CC=C(C=C1)C1=C(C2=CC(CN2C1=O)(C)C)C1=CC=CC=C1 | C21H18ClNO
solvent | H2O | O | H2O
product | 2-(4-Chlorophenyl)-7a-hydroxy-6,6-dimethyl-1-phenyl-5,6,7,7a-tetrahydropyrrolizin-3-one | ClC1=CC=C(C=C1)C1=C(C2(CC(CN2C1=O)(C)C)O)C1=CC=CC=C1 | C21H20ClNO2
